US06046192
(R)-4-Hydroxymandelic acid (2.02 g) was dissolved in N,N-dimethylformamide (24 ml), and benzyl bromide (3.57 ml) and potassium carbonate (3.65 g) were added to the solution at room temperature with stirring. After reaction for 12 hours, ice-water was poured into the reaction mixture and the resulting precipitates were collected by filtration. The precipitates were suspended in methanol (24 ml) and 1N aqueous sodium hydroxide solution (12 ml) was added to the suspension under ice-cooling with stirring. After reaction at room temperature for 2 hours, 1N hydrochloric acid (12 ml) was added to the reaction mixture under ice-cooling with stirring. Collection by filtration of the resulting precipitates gave (R)-4-benzyloxymandelic acid (2.43 g) having a melting point of 161-163° C.

reactant | (R)-4-Hydroxymandelic acid | 2.02 g | OC1=CC=C([C@H](C(=O)O)O)C=C1 | C8H8O4
reactant | benzyl bromide | 3.57 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 3.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N, 12 ml | Cl | ClH
solvent | N,N-dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
product | (R)-4-benzyloxymandelic acid | 2.43 g | C(C1=CC=CC=C1)OC1=CC=C([C@H](C(=O)O)O)C=C1 | C15H14O4
